US08802596B2
(2-acetoxyethyl)heptyloxymethyldimethylammonium Benzoate
In a two-necked, round bottomed flask, equipped with a condenser and addition funnel, 2-(dimethylamino)ethyl acetate (0.1 mol) was mixed with 150 mL of anhydrous hexane. Chloromethyl hexyl ether (0.1 mol) was slowly added over 15 minutes. After 30 minutes, the reaction mixture was cooled to the temperature of minus 18° C. and the crude product was separated. The crude product was washed with 100 mL of hexane and used in the next step without further purification. The material was dissolved in 100 mL of water and aqueous solution of sodium benzoate was added in stoichiometric amount. After 30 minutes, two phases were separated. The water phase was removed and 100 mL of anhydrous acetone was added to the residue. Precipitated NaCl was filtered off and the obtained liquid product, (2-acetoxyethyl)heptyloxymethyldimethylammonium benzoate, was dried for 12 h at 60° C. in vacuum. The product was obtained as viscous liquid in 65% yield. Thermogravimetric analysis: Tonset=120° C. 1H and 13C NMR (DMSO) were obtained.

reactant | 2-(dimethylamino)ethyl acetate | 0.1 mol | C(C)(=O)OCCN(C)C | C6H13NO2
reactant | hexane | 150 mL | CCCCCC | C6H14
reactant | Chloromethyl hexyl ether | 0.1 mol | C(CCCCC)OCCl | C7H15ClO
solvent | DMSO | CS(=O)C | C2H6OS
product | (2-acetoxyethyl)heptyloxymethyldimethylammonium Benzoate | 65% yield | C(C1=CC=CC=C1)(=O)[O-].C(C)(=O)OCC[N+](C)(C)COCCCCCCC | InChI=1S/C14H30NO3.C7H6O2/c1-5-6-7-8-9-11-17-13-15(3,4)10-12-18-14(2)16;8-7(9)6-4-2-1-3-5-6/h5-13H2,1-4H3;1-5H,(H,8,9)/q+1;/p-1
